US05563157
1.2 Synthesis of (E)-2-(Thien-3-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid
Combine (E)-2-(thien-3-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester and trifluoroacetic acid (10 mL). After 45 min, evaporate in vacuo to obtain a residue. Dissolve the residue in ethyl acetate and extract with water. Evaporate the organic layer in vacuo to obtain a residue. Triturate with pentane containing a small amount of ether to give a solid. Recrystallize the solid from cyclohexane/ethyl acetate, filter, and dry to give the title compound: mp 197°-200° C. (dec); 1H NMR (CDCl3) δ 8.00 (s, 1H), 7.95 (d, 1H, J=1.7 Hz), 7.74 (d, 2H, J=8.5 Hz), 7.27 (d, 2H, J=8.5 Hz), 7.25 (d, 1H, J=1.7 Hz), 7.08 (d, 1H, J=2.8 Hz), 7.08 (d, 1H, J=3.6 Hz), 6.81 (dd, 1H, J=3.6, 2.8 Hz), 4.22 (q, 2H, J=7.2 Hz), 2.40 (s, 3H), 1.28 (t, 3H, J=7.2 Hz); 1H NMR (DMSO-d6) δ 13.07 (br s, 1H), 7.88 (d, 1H, J=1.7 Hz), 7.74 (d, 2H, J=8.4 Hz), 7.66 (s, 1H), 7.57 (d, 1H, J=1.7 Hz), 7.44 (d, 2H, J=8.4 Hz), 7.27 (dd, 1H, J=5.0, 2.9 Hz), 7.09 (dd, 1H, J=2.9, 1.2 Hz), 6.63 (dd, 1H, J=5.0, 1.2 Hz), 4.11 (q, 2H, J=7.1 Hz), 2.36 (s, 3H), 1.14 (t, 3H, J=7.1 Hz). Elemental Analysis calculated for C25H19Cl2NO6S2 : C, 53.20; H, 3.39; N, 2.48. Found: C, 52.80; H, 3.19; N, 2.29.

reactant | (E)-2-(thien-3-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | S1C=C(C=C1)/C(/C(=O)OC(C)(C)C)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C29H27Cl2NO6S2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-(Thien-3-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid | S1C=C(C=C1)/C(/C(=O)O)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C25H19Cl2NO6S2
